### ISSUE TITLE
forall_congr should be generalized from Prop to Sort

### ISSUE THREAD

**Issue by sgraf812** [leanprover/lean4#7507]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`forall_congr` currently has type

```
theorem forall_congr {α : Sort u} {p q : α → Prop} (h : ∀ a, p a = q a) : (∀ a, p a) = (∀ a, q a)
```

but could (should?) have type

```
theorem forall_congr {α : Sort u} {p q : α → Sort v} (h : ∀ a, p a = q a) : (∀ a, p a) = (∀ a, q a)
```

in order to accept more proofs using `conv` mode, which uses this theorem.

### Steps to Reproduce

```
axiom ID : Type → Type
axiom ID.eq {α} : ID α = α
example : ((x:Type) → ID x) = ((x : Type) → x) := by
  conv => lhs; ext; apply ID.eq
```
[live.lean](https://live.lean-lang.org/#project=lean-nightly&codez=IYDwlg9gtgBAkgERgLhgFQJ4AcCmNBJhOtjgFCiSyIB0OAjjAN6CNwAL4rxJMwC8MTJOEMChYANnlQAKSSGSZcASgIcYIJb2kh28nEsJqUvAEYYSMGAGMIAOwBuPAHwxRACwDOAbhiCALl+BYYhgcNLQkJAC0ETA+LjgQAE44sABmicCiogD6VtYA5gmMXKgAyok+MACubAxYMPSoXIQACgkQWGySLuyAAEQwwAA0MHXAPPX9SlJ9g8MTY5LTQ/TAk9wksfFJsABCOD4+OAlUaQkZ2bkFRexlCRXVjHUNfMo3Fbad3aiLs6O8y5MwBb9IYjdSA77/QxmQEpSrWXwwT6zP5KQAdpDAEilROFBMIxBJATI5MQ9CoDBoZNoScoDMhjKZzAEgjBdvtDsd0pkcjYCtCmaJgtQ6EA)

**Expected behavior:** No error

**Actual behavior:** The following error:

```
application type mismatch
  @forall_congr Type fun x => ID x
argument has type
  Type → Type
but function has type
  ∀ {p q : Type → Prop}, (∀ (a : Type), p a = q a) → (∀ (a : Type), p a) = ∀ (a : Type), q a
```

By comparison, the following works:

```
-- theorem forall_congr {α : Sort u} {p q : α → Prop} (h : ∀ a, p a = q a) : (∀ a, p a) = (∀ a, q a) :=
theorem Better.forall_congr {α : Sort u} {p q : α → Sort v} (h : ∀ a, p a = q a) : (∀ a, p a) = (∀ a, q a) :=
  (funext h : p = q) ▸ rfl

example : ((x:Type) → ID x) = ((x : Type) → x) := by
  apply Better.forall_congr
  apply ID.eq
```

### Versions

"4.19.0-nightly-2025-03-15"

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
